US08729068B2
A mixture of 300 mg of methyl 4-(2-{4-[({2-[(3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate, 1.5 mL of a 1.0 M aqueous sodium hydroxide solution, and 3.0 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure, and then to the obtained residue were added water, 300 mg of citric acid, and dichloromethane in this order, and the precipitate was collected by filtration. For the filtrate, the organic layer was separated and evaporated under reduced pressure. The firstly collected solid and the concentrate of the filtrate were mixed and the mixture was purified by silica gel column chromatography (chloroform-methanol). The crude product was washed with diethyl ether to obtain 203 mg of 4-{2-[4-({[2-({3-[(trans-4-carboxycyclohexyl)(ethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid as a pale yellow crystal.

reactant | methyl 4-(2-{4-[({2-[(3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 300 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)[C@@H]1CC[C@H](CC1)C(=O)OC | C42H47N3O8S2
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 4-{2-[4-({[2-({3-[(trans-4-carboxycyclohexyl)(ethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid | 203 mg | C(=O)(O)[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)CC | C40H43N3O8S2
